US06727264B1
N-(3-{1-[3-(4-FLUOROPHENOXY)-3-(4-METHOXYPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-hydroxy-3-(4-methoxyphenyl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-fluorophenol: ESMS m/e: 505.5 (M+H)+.

reactant | N-(3-{1-[3-hydroxy-3-(4-methoxyphenyl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | OC(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=C(C=C1)OC | C25H34N2O3
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | N-(3-{1-[3-(4-FLUOROPHENOXY)-3-(4-METHOXYPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | FC1=CC=C(OC(CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=C(C=C2)OC)C=C1 | C31H37FN2O3
